US06632418B2
methyl (2-propynyloxy)acetate
A mechanically stirred suspension of sodium hydride (60 5% dispersion in mineral oil) (50 g, 1.25 mol) in tetrahydrofuran (800 mL) at 0° C. under nitrogen was treated dropwise with a solution of propargyl alcohol (84 g, 1.5 mol) in tetrahydrofuran (175 mL), stirred at 0° C. for 1 hour, treated with a solution of methyl bromoacetate in tetrahydrofuran (250 mL) over 15 minutes, stirred at 0° C. for 30 minutes, stirred at ambient temperature for 2 hours, and treated with 2M HCl (800 mL). The organic layer was isolated and the aqueous layer was extracted with ethyl acetate (2×, 500 mL). The combined organic layers were washed with brine (200 mL), dreid (MgSO4), filtered, concentrated and distilled (bp 75-85° C. at 20 torr) to provide the title compound (83 g).

reactant | sodium hydride | 1.25 mol, 50 g | [H-].[Na+]
reactant | propargyl alcohol | 1.5 mol, 84 g | C(C#C)O | C3H4O
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | HCl | 2M, 800 mL | Cl | ClH
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 175 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | methyl (2-propynyloxy)acetate | 83 g | C(C#C)OCC(=O)OC | C6H8O3
